US06329405B1
(32a) 3-{Cyclohexyl-[1-(3,4-difluorophenyl)ethylamino]methyl}phenylamine
In a similar manner to that described in Example (25a), cyclohexyl-3-nitrophenylketone (3.0 g), 1-(3,4-difluorophenyl)ethylamine hydrochloride (4.98 g) triethylamine (10.8 ml), titanium tetrachloride (1.70 ml), nickel chloride hexahydrate (6.11 g), and sodium borohydride (2.05 g) were reacted, to afford the title compound (1.59 g) as a yellow oil.

reactant | cyclohexyl-3-nitrophenylketone | 3.0 g | C1(CCCCC1)C1=C(C=CC=C1[N+](=O)[O-])C(=O)C1=C(C(=CC=C1)[N+](=O)[O-])C1CCCCC1 | C25H28N2O5
reactant | 1-(3,4-difluorophenyl)ethylamine hydrochloride | 10.8 ml, 4.98 g | Cl.FC=1C=C(C=CC1F)C(C)N
reactant | sodium borohydride | 2.05 g | [BH4-].[Na+]
catalyst | titanium tetrachloride | 1.70 ml | [Ti](Cl)(Cl)(Cl)Cl
catalyst | nickel chloride hexahydrate | 6.11 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-{Cyclohexyl-[1-(3,4-difluorophenyl)ethylamino]methyl}phenylamine | 1.59 g | C1(CCCCC1)C(C=1C=C(C=CC1)N)NC(C)C1=CC(=C(C=C1)F)F | C21H26F2N2
